US04001426
Acylation of 3-p-methoxybenzylbenzofuran with 3,5-dimethylbenzoyl chloride and stannic chloride in methylene chloride according to the procedure described in Example 1 gives 3-p-methoxybenzyl-2-(3',5'-dimethylbenzoyl)benzofuran.

reactant | 3-p-methoxybenzylbenzofuran | COC1=CC=C(CC2=COC3=C2C=CC=C3)C=C1 | C16H14O2
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-p-methoxybenzyl-2-(3',5'-dimethylbenzoyl)benzofuran | COC1=CC=C(CC2=C(OC3=C2C=CC=C3)C(C3=CC(=CC(=C3)C)C)=O)C=C1 | C25H22O3
